US06376515B2
To a solution of 2-amino-5-chloropyridine (328 mg, 2.55 mmol) in tetrahydrofuran (5 ml) was 0.5M potassium bis(trimethylsilyl)amide in toluene (10 ml, 5.05 mmol) dropwise at −78° C. After stirred for additional 0.5 hr at −78° C., the mixture was added 5-chloroisatoic anhydride (0.5 g, 2.55 mmol) at −78° C. The mixture was warmed up to r.t gradually and stirred overnight. After quenched by saturated ammonium chloride solution, the mixture was extracted by ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated to give (2-amino-5-chlorophenyl)-N-(5-chloro(2-pyridyl))carboxamide (0.71 g. 100%). MS found for C12H9Cl2N3O M+=282, (M+2)+=284.

reactant | 2-amino-5-chloropyridine | 2.55 mmol, 328 mg | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | potassium bis(trimethylsilyl)amide | 0.5M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 5.05 mmol, 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-chloroisatoic anhydride | 2.55 mmol, 0.5 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2-amino-5-chlorophenyl)-N-(5-chloro(2-pyridyl))carboxamide | 0.71 g, 100% | NC1=C(C=C(C=C1)Cl)C(=O)NC1=NC=C(C=C1)Cl | C12H9Cl2N3O
